US07566699B2
To a solution of 4-hydroxy-3-(2-phenylethyl)indole (70 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.22 g) in dichloromethane (3 mL) was added boron trifluoride-diethyl ether complex (0.081 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by preparative thin layer chromatography (eluent: n-hexane/ethyl acetate=1/1) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)indole. This material was dissolved in tetrahydrofuran (1 mL)-methanol (0.5 mL). To the solution was added sodium methoxide (28% methanol solution, 0.024 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by preparative thin layer chromatography (eluent: dichloromethane/methanol=5/1) to give the title compound (22 mg).

reactant | 4-hydroxy-3-(2-phenylethyl)indole | 70 mg | OC1=C2C(=CNC2=CC=C1)CCC1=CC=CC=C1 | C16H15NO
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 0.22 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)indole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C2C(=CNC2=CC=C1)CCC1=CC=CC=C1 | C30H33NO10
